US09314021B2
Ethylparaben
Chlorhexidine Diacetate, Digluconate or Dihydrochloride

reactant | Chlorhexidine Diacetate | CC(=O)O.CC(=O)O.C=1C(=CC=C(C1)Cl)N/C(=N/C(=N/CCCCCC/N=C(/N=C(/NC2=CC=C(C=C2)Cl)\N)\N)/N)/N
reactant | Dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | Ethylparaben | C(C)OC(=O)C1=CC=C(O)C=C1 | C9H10O3
